### PR TITLE
Upstreamed consequences

### PR DESCRIPTION
**Pull request by ajirving**
Update Consequences.lean to use newly upstreamed results from Mathlib.

### CODE REVIEW

File: PrimeNumberTheoremAnd/Consequences.lean [hunk 1]
```diff
@@ -379,7 +214,8 @@ theorem WeakPNT' : Tendsto (fun N ↦ (∑ n ∈ Iic N, Λ n) / N) atTop (nhds 1
   exact Tendsto.comp this tendsto_natCast_atTop_atTop
 
 /-- An alternate form of the Weak PNT. -/
-theorem WeakPNT'' : (fun x ↦ ∑ n ∈ (Iic ⌊x⌋₊), Λ n) ~[atTop] (fun x ↦ x) := by
+theorem WeakPNT'' : (fun x ↦ ψ x) ~[atTop] (fun x ↦ x) := by
```
Comment (Ruben-VandeVelde) [inline PrimeNumberTheoremAnd/Consequences.lean]: Can this be
```suggestion
theorem WeakPNT'' : ψ ~[atTop] (fun x ↦ x) := by
```
?

Comment (ajirving) [reply PrimeNumberTheoremAnd/Consequences.lean]: Done, with a slightly annoying extra rewrite to make the proof still work.
